US06180635B2
N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}-N′,N′-dimethylurea
Prepared from 5-[(3-aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (10 mg) and dimethylcarbamoyl chloride (24.8 mg) following the method of Example 41 to give the title compound (8 mg).

reactant | 5-[(3-aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 10 mg | NCCCSC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H29N3O2S2
reactant | dimethylcarbamoyl chloride | 24.8 mg | CN(C(=O)Cl)C | C3H6ClNO
product | N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}-N′,N′-dimethylurea | 8 mg | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SCCCNC(=O)N(C)C)CC(C)C)=O | C28H34N4O3S2
